US07544838B2
4-Hydroxy-benzoic acid (4-bromo-3,5-dimethyl-1H-pyrrol-2-ylmethylene)-hydrazide (DY172)
To a solution of 4-hydroxy-benzoic acid hydrazide (0.06 g, 0.0004 mol) and 4-bromo-3,5-dimethyl-pyrrole-2-carboxaldehyde (0.08 g, 0.0004 mol) in abs. EtOH (5 mL), was added 1 drop of acetic acid. The reaction mixture was refluxed for 5 hours. The reaction mixture was cooling to room temperature and concentrated to remove solvent. The resulting residue was solidified by EtOAc to give red solid 0.1 g, in 77% yield, mp: 235.4° C. 1H NMR (DMSO-d6) δ 11.46 (s, 1H), 11.21 (s, 1H), 9.99 (s, 1H), 8.26 (s, 1H), 7.76 (d, 2H), 6.82 (d, 2H), 2.15 (s, 3H), 2.03 (s, 3H). 13C NMR (DMSO-d6) δ 163.9, 162.2, 140.2, 131.6, 131.3, 126.1, 124.0, 124.3, 116.8, 13.4, 11.8. Anal. Calcd for C14H14BrN3O2 ·¼ H2O: C, 49.35; H, 4.14; N, 12.33; Br, 23.69. Found: C, 49.21; H, 3.95; N, 11.96; Br, 23.37.

reactant | 4-hydroxy-benzoic acid hydrazide | 0.0004 mol, 0.06 g | OC1=CC=C(C(=O)NN)C=C1 | C7H8N2O2
reactant | 4-bromo-3,5-dimethyl-pyrrole-2-carboxaldehyde | 0.0004 mol, 0.08 g | BrC=1C(=C(NC1C)C=O)C | C7H8BrNO
catalyst | acetic acid | 1 drop | C(C)(=O)O | C2H4O2
solvent | EtOH | 5 mL | CCO | C2H6O
product | 4-Hydroxy-benzoic acid (4-bromo-3,5-dimethyl-1H-pyrrol-2-ylmethylene)-hydrazide | 0.1 g, 77% yield | BrC=1C(=C(NC1C)C=NNC(C1=CC=C(C=C1)O)=O)C | C14H14BrN3O2
